US04456612
A mixture of 6,7-dichloro-2,3-dihydro-5-(2-fluorobenzoyl)benzofuran-2-carboxylic acid (15 g.) hydroxylamine hydrochloride (20 g.) and pyridine (80 ml.) was heated at reflux for 5 hours. The pyridine was evaporated under reduced pressure and the residue poured slowly into cold, 5% HCl. The resulting solid was filtered and dried to give 12 g. of the corresponding oxime. The oxime was dissolved in 100 ml. of absolute ethanol and mixed with a solution of 9.4 g. of potassium hydroxide in 150 ml. of ethanol. After refluxing for 2 hours, the solution was allowed to cool and the precipitated potassium carboxylate salt was filtered. This salt was converted to the free acid as described in Example 42 and then esterified by stirring overnight in 150 ml. of ethanol containing 0.5 ml. of concentrated H2SO4. Partial evaporation of the ethanol was followed by distribution of the residue between methylene chloride and saturated aqueous HCl. The organic phase was dried and evaporated to give a mixture of ethyl esters. The mixture was subjected to preparative high pressure liquid chromatography to afford pure samples of ethyl 8-chloro-3-(2-fluorophenyl)-5,6-dihydrofuro[3,2-f]-1,2-benzizisoxazole-6-carboxylate, m.p. 135°-136° C. and ethyl 5-(1,2-benzisoxazole-3-yl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylate, m.p. 114°-116° C. The corresponding carboxylic acids were obtained by hydrolysis with potassium hydroxide. Thus, a 1 g. sample of each ester was dissolved in 25 ml. of 80% aqueous methanol containing 2 molar equivalents of KOH. After 2 hours at room temperature, the methaol was partially evaporated and the residue diluted with water. Acidification with hydrochloric acid furnished the acids: 8-chloro-3-(2-fluorophenyl)-5,6-dihydrofuro[3,2-f]-1,2-benzisoxazole-6-carboxylic acid, m.p. 197.5°-199° C.

reactant | 6,7-dichloro-2,3-dihydro-5-(2-fluorobenzoyl)benzofuran-2-carboxylic acid | 15 g | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C1=C(C=CC=C1)F)=O)Cl | C16H9Cl2FO4
reactant | hydroxylamine hydrochloride | 20 g | Cl.NO
reactant | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 5-(1,2-benzisoxazole-3-yl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylate | O1N=C(C2=C1C=CC=C2)C=2C(=C(C1=C(CC(O1)C(=O)OCC)C2)Cl)Cl | C18H13Cl2NO4
